### PR TITLE
[Merged by Bors] - feat(Calculus): derivative of `ContinuousAlternatingMap.compContinuousLinearMap`

### PR DESCRIPTION
**Pull request by urkud**
---

- [ ] depends on: #30182

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/TVS.lean [hunk 1]
```diff
@@ -301,6 +301,18 @@ lemma _root_.ContinuousLinearMap.isBigOTVS_comp (g : E →L[𝕜] F) : (g ∘ f)
 lemma _root_.ContinuousLinearMap.isBigOTVS_fun_comp (g : E →L[𝕜] F) : (g <| f ·) =O[𝕜; l] f :=
   g.isBigOTVS_comp
 
+lemma _root_.LinearMap.isBigOTVS_rev_comp (g : E →ₗ[𝕜] F) (hg : comap g (𝓝 0) ≤ 𝓝 0) :
+    f =O[𝕜; l] (g ∘ f) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Asymptotics/TVS.lean:309]: I feel like we hardly ever use the token `rev` outside of `mul_inv_rev` or things like that. How do you feel about `isBigOTVS_comp_self`?

File: Mathlib/Analysis/Calculus/FDeriv/ContinuousAlternatingMap.lean [hunk 2]
```diff
@@ -0,0 +1,246 @@
...
+section HasFDerivAt
+
+variable [Fintype ι] [DecidableEq ι]
+
+theorem ContinuousAlternatingMap.hasStrictFDerivAt_compContinuousLinearMap
+    (fg : (G [⋀^ι]→L[𝕜] H) × (F →L[𝕜] G)) :
+    HasStrictFDerivAt
+      (fun fg : (G [⋀^ι]→L[𝕜] H) × (F →L[𝕜] G) ↦ fg.1.compContinuousLinearMap fg.2)
+      (compContinuousLinearMapCLM fg.2 ∘L .fst _ _ _ +
+        fg.1.fderivCompContinuousLinearMap fg.2 ∘L .snd _ _ _)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/FDeriv/ContinuousAlternatingMap.lean:68]: untested
```suggestion
      (compContinuousLinearMapCLM fg.2 ∘L .fst .. +
        fg.1.fderivCompContinuousLinearMap fg.2 ∘L .snd ..)
```

File: Mathlib/Analysis/Convex/EGauge.lean [hunk 3]
```diff
@@ -152,6 +152,22 @@ lemma egauge_le_one (h : x ∈ s) : egauge 𝕜 s x ≤ 1 := by
 
 variable {𝕜}
 
+lemma le_egauge_of_forall_ne_zero [(𝓝[≠] (0 : 𝕜)).NeBot] {r : ℝ≥0∞}
+    (hs₀ : 0 ∈ s) (h : ∀ c : 𝕜, c ≠ 0 → x ∈ c • s → r ≤ ‖c‖ₑ) : r ≤ egauge 𝕜 s x := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Convex/EGauge.lean:160]: `𝕜` is a TVS here, right? Do we really have no better spelling for `(𝓝[≠] (0 : 𝕜)).NeBot`?

File: Mathlib/Topology/Algebra/Module/Alternating/Topology.lean [hunk 4]
```diff
@@ -216,10 +218,33 @@ def restrictScalarsCLM [ContinuousConstSMul 𝕜' F] :
...
+  toFun x := ⟨f x, hf x⟩
+  map_add' _ _ := by ext; simp
+  map_smul' _ _ := by ext; simp
+  cont := continuous_induced_rng.mpr (map_continuous f)
+
+@[simp]
+lemma liftCLM_apply (f : G →L[𝕜] ContinuousMultilinearMap 𝕜 (fun _ : ι ↦ E) F)
+    (hf : ∀ x v i j, v i = v j → i ≠ j → f x v = 0) (x : G) (v : ι → E) :
+    liftCLM f hf x v = f x v :=
+  rfl
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/Module/Alternating/Topology.lean:245]: Does `@[simps]` generate the wrong thing here?

**Review by j-loreaux — COMMENTED** [review]
All the hard stuff appears straightforward. I just have questions about the easy things.

File: Mathlib/Analysis/Asymptotics/TVS.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Analysis/Asymptotics/TVS.lean:309]: We have https://loogle.lean-lang.org/?q=Asymptotics.IsBigO%2C+%22rev%22 though I may be responsible for some of the matches.

File: Mathlib/Analysis/Convex/EGauge.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/Analysis/Convex/EGauge.lean:160]: It's a `NormedDivisionRing`. We don't have `NontriviallyNormedDivisionRing`s. We don't have a `NonIsolatedPt` typeclass either.

File: Mathlib/Analysis/Asymptotics/TVS.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Asymptotics/TVS.lean:309]: Okay, there's enough of a precedent.

File: Mathlib/Topology/Algebra/Module/Alternating/Topology.lean (hunk 4 above)
Comment (urkud) [reply Mathlib/Topology/Algebra/Module/Alternating/Topology.lean:245]: `@[simps]` fails, because it hits `f` on its way, and it's not a constructor application.

File: Mathlib/Analysis/Calculus/FDeriv/ContinuousAlternatingMap.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Analysis/Calculus/FDeriv/ContinuousAlternatingMap.lean:68]: Even if it works, it isn't clear right away whether `..` should add one extra `_` for the application of `.fst _ _ _`.

**Review by j-loreaux — COMMENTED** [review]
maintainer merge

**Comment by j-loreaux** [comment]
Let's try again:

maintainer merge

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
